US07344702B2
Synthesis of 4-(2-(4-tert-butylphenyl)-ethoxy)-2-quinazolone
2-(4-tert-butylphenyl) ethanol (0.3 g, 1.68 mmol) is dissolved in dry tetrahydrofuran (7 ml) and to it is added sodium hydride (48.5 mg, 2.02 mmol). The resulting solution is stirred at room temperature for 30 minutes after which 4-chloro-2-quinazolone (0.302 g, 1.68 mmol) is added to the above solution. The solution is then stirred for 6 hours after which water is added to the mixture. The solution is then extracted in dichloromethane. The organic layer is washed, dried and then concentrated to yield the crude product which is purified by flash chromatography (silica gel; ethyl acetate/hexanes) to give the product.

reactant | 2-(4-tert-butylphenyl) ethanol | 1.68 mmol, 0.3 g | C(C)(C)(C)C1=CC=C(C=C1)CCO | C12H18O
reactant | sodium hydride | 2.02 mmol, 48.5 mg | [H-].[Na+]
reactant | 4-chloro-2-quinazolone | 1.68 mmol, 0.302 g | ClC1=NC(NC2=CC=CC=C12)=O | C8H5ClN2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 4-(2-(4-tert-butylphenyl)-ethoxy)-2-quinazolone | C(C)(C)(C)C1=CC=C(C=C1)CCOC1=NC(NC2=CC=CC=C12)=O | C20H22N2O2
